US04016166
To a solution of 2.8 g of 1-(m-nitrophenyl)quinazoline-2,4(1H, 3H)-dione and 30 ml of dimethylformamide was added 0.6 g of approximately 55 % sodium hydride, and the solution was stirred for 20 minutes at room temperature. To this was added 2.2 g of dimethyl sulfite and stirring was further continued for 4 hours at room temperature. After the reaction was complete, the solvent was removed from the reaction mixture by distillation under reduced pressure. The residue thus obtained was mixed with water to precipitate a crude product. This product was recrystallized from methanol to afford 2.8 g of 1-(m-nitrophenyl)-3-methylquinazoline-2,4(1H, 3H)-dione as colorless needles, melting at 242°-243° C.

reactant | 1-(m-nitrophenyl)quinazoline-2,4(1H, 3H)-dione | 2.8 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(NC(C2=CC=CC=C12)=O)=O | C14H9N3O4
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | dimethyl sulfite | 2.2 g | S(=O)(OC)OC | C2H6O3S
solvent | water | O | H2O
product | 1-(m-nitrophenyl)-3-methylquinazoline-2,4(1H, 3H)-dione | 2.8 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(N(C(C2=CC=CC=C12)=O)C)=O | C15H11N3O4
